Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Cephalosporins / Flagyl
 
Attending: ___
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ year old right handed nurse with ___
history of HLD, who presents with dizziness and nausea. She woke
up at 5:30 this morning and felt "woozy." (She was last normal 
at
2am when she woke up to use the bathroom.) She walked to the
bathroom and felt unsteady on her feet and dizzy. She does not
endorse room spinning vertigo; when given options, says it may 
be
like rocking on a boat. 

She thought maybe she was dehydrated and drank some water, which
she vomited up within 5 minutes. Got back in bed and vomited
multiple more times. She researched "acute dizziness" online
because she was concerned she was having a stroke and decided to
come to the ED for further evaluation. 

Her symptoms have been constant and haven't changed since 5:30.
Changing positions like looking left and right or laying down
make her symptoms worse. Nothing has alleviated them although 
she
has stopped vomiting after getting Zofran. Upon initial ED
evaluation, she was noted to have torsional nystagmus that
changed directions when testing different sides in the
___ maneuver and neurology was consulted for concern of
cerebellar stroke given direction changing nystagmus. Per the
patient, she did have a sensation of oscillopsia and room
movement during the ___ maneuver. 

Review of Systems: 
The pt denies headache, loss of vision, blurred vision, 
diplopia,
dysarthria, dysphagia, hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. The pt denies recent fever.  No recent weight loss.
Denies cough, shortness of breath.  Denies chest pain or
palpitations.  Denies diarrhea, constipation or abdominal pain. 
No recent change in bowel or bladder habits.  No dysuria. Denies
rash.
 
Past Medical History:
- asthma
- rosacea
- eczema
- squamous cell and basal cell skin cancers, removed
- HLD
- HSV-2
- anxiety

 
Social History:
___
Family History:
- stomach cancer, MI (at ___) in father
- maternal grandmother with strokes
- skin cancer in the family

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:  97.2 53 116/76 16 100% 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, no meningismus. 
Pulmonary: breathing comfortably on RA
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without
difficulty.  Language is fluent with intact comprehension and
normal prosody.  There were no paraphasic errors.  Pt. was able
to name both high and low frequency objects on the stroke card. 
Able to read without difficulty.  Speech was not dysarthric. 
Able to follow both midline and appendicular commands.  

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm bilaterally.  
III, IV, VI: EOMI without nystagmus. With ___ testing,
with right ear down had subtle torsional nystagmus (clockwise).
She became nauseated with testing both directions. Head impulse
test was negative.  
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  5   4+  ___    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2+   2+    2     2+   2
R   2+   2+    2     2+   2
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout.

-Coordination: No dysmetria on FNF bilaterally. No overshoot on
mirroring or quick descent of arms. Finger tapping on thumb
crease was accurate bilaterally but the patient subjectively 
felt
it was clumsy and more effortful with the right hand.  

-Gait: Good initiation. Narrow-based, normal stride.  Able to
walk in tandem for a couple steps but then became unsteady/dizzy
and needed to grab hold of the wall. Romberg absent.

DISCHARGE PHYSICAL EXAM:
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented. Able to relate history without
difficulty.  Language is fluent with intact comprehension and
normal prosody.  There were no paraphasic errors.  Pt. was able
to name both high and low frequency objects on the stroke card. 
Able to read without difficulty. Speech was not dysarthric. 
Able to follow both midline and appendicular commands.  

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm bilaterally.  
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2+   2+    2     2+   2
R   2+   2+    2     2+   2
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout.

-Coordination: No dysmetria on FNF bilaterally. No overshoot on
mirroring or quick descent of arms. Finger tapping on thumb
crease was accurate bilaterally.  

-Gait: Good initiation. Narrow-based, normal stride.  Able to
walk in tandem for a couple steps. Romberg absent.

 
Pertinent Results:
ADMISSION LABS: 
___ 07:15AM BLOOD WBC-4.7 RBC-4.64 Hgb-14.3 Hct-43.7 MCV-94 
MCH-30.8 MCHC-32.7 RDW-12.4 RDWSD-43.4 Plt ___
___ 07:15AM BLOOD Neuts-60.9 ___ Monos-7.3 Eos-1.7 
Baso-0.9 Im ___ AbsNeut-2.83 AbsLymp-1.35 AbsMono-0.34 
AbsEos-0.08 AbsBaso-0.04
___ 07:15AM BLOOD Glucose-111* UreaN-15 Creat-0.9 Na-142 
K-3.8 Cl-104 HCO3-28 AnGap-14
___ 05:10AM BLOOD ALT-25 AST-26 AlkPhos-64 TotBili-0.4
___ 05:10AM BLOOD Triglyc-106 HDL-51 CHOL/HD-3.9 
LDLcalc-125
___ 05:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING: 
CT HEAD ___:
No acute intracranial process.

CTA HEAD AND NECK ___:
No aneurysm, arterial dissection or stenosis involving the major 
vessels of the head and neck. 

MRI BRAIN ___ (PRELIM):
1. No acute infarct or intracranial hemorrhage. 
2. A few nonspecific scattered periventricular subcortical 
T2/FLAIR white 
matter hyperintensities, commonly seen in setting of chronic 
microangiopathy in a patient of this age.

DISCHARGE LABS: 
___ 05:10AM BLOOD %HbA1c-PND
 
Brief Hospital Course:
Ms. ___ is a ___ F with a history of hyperlipidemia who 
presented with constant dizziness and nausea/vomiting that began 
on awakening found to have peripheral vertigo. 

# Peripheral vertigo: On admission exam, patient had torsional 
nystagmus during the ___ maneuver bilaterally but she 
had a negative head thrust. She was admitted due to constant 
symptoms lasting hours concerning for possible posterior 
circulation stroke. A CT/CTA and MRI were negative for acute 
intracranial process. Her symptoms resolved by the morning after 
presentation and she was able to walk without symptoms prior to 
discharge. She was provided with a handout for how to perform 
the Epley maneuver and this was demonstrated to her prior to 
discharge in case her symptoms returned. She will follow-up with 
her primary care physician.  

Transitional issues: 
- patient provided with handout for Epley maneuver
- HCP: ___ (husband) ___
- Code status: Full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH PRN asthma 
2. Cetirizine 5 mg PO DAILY 
3. Minocycline 50 mg PO Q24H rosacea 
4. Clindamycin 1% Solution 1 Appl TP DAILY rosacea 
5. ValACYclovir 1000 mg PO PRN outbreak 
6. Vitamin D ___ UNIT PO DAILY 
7. ClonazePAM 0.125 mg PO PRN anxiety 
8. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
9. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea 
2. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
3. Cetirizine 5 mg PO DAILY 
4. Clindamycin 1% Solution 1 Appl TP DAILY rosacea 
5. ClonazePAM 0.125 mg PO PRN anxiety 
6. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH PRN asthma 
7. Vitamin D ___ UNIT PO DAILY 
8. Minocycline 50 mg PO Q24H rosacea 
9. ValACYclovir 1000 mg PO PRN outbreak 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Peripheral vertigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to ___ with dizziness and vomiting and 
concern for stroke. Fortunately, your CT scan and MRI were 
reassuringly negative for stroke. We feel that your dizziness 
likely started in your inner ear and will get better with time. 
You are currently able to walk and move without symptoms and so 
we feel that you are safe to go home. Please follow-up with your 
primary care physician in the next few weeks. 

It was a pleasure taking care of you, 
Your ___ Neurologists
 
Followup Instructions:
___